US07442805B2
Synthesis of 1-Benzyl-3-(4-tert-butylphenyl)-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzyl-3-(4-tert-butylphenyl)-1H-indole-2-carboxylate and 4-trifluoromethoxy-benzenesulfonyl chloride followed the procedure of Example 1 Step 3 as a slight colored solid: 1H NMR (DMSO-d6) δ 1.34 (s, 9H, 5.76 (s, 2H, 7.00 (d, J=1.9 Hz, 1H, 7.07 (d, J=7.8 Hz, 4H, 7.15-7.35 (m, 5H), 7.42 (d, J=8.5 Hz, 2H, 7.54 (d, J=8.8 Hz, 2H, 7.75 (d, J=8.9 Hz, 2H, 9.95 (s, 1H, 12.50 (br s, 1H; MS (ESI) m/z 623 (MH+); MS (ESI) m/z 621 [M-H]−; HRMS calcd for C33H30F3N2O5S: 623.1825; found (ESI+): 623.1813; Anal. calcd for C33H29F3N2O5S.0.25H2O: C, 63.20; H, 4.74; N, 4.47. Found: C, 63.15; H, 4.58; N, 4.58.

reactant | ethyl 5-amino-1-benzyl-3-(4-tert-butylphenyl)-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=C(C=C1)C(C)(C)C | C28H30N2O2
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | 1-Benzyl-3-(4-tert-butylphenyl)-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)C(C)(C)C)C(=O)O | C33H29F3N2O5S
